simulator lang=spectre
global 0

ahdl_include "./dut/file_metric_writer.va"

Vin (vin 0) vsource type=pwl wave=[0 0 18n 0 19n 0.9 46n 0.9 47n 0.1 64n 0.1 65n 0.9 110n 0.9]

XDUT (vin done) file_metric_writer filename="metric.out"

tran tran stop=110n maxstep=500p
save vin done
